US07705053B2
Production of 4-methoxy-3-N-(3-methoxy-5-trifluoromethylphenyl)isophthalamide (Compound 1-3-34)
The captioned compound was synthesized from 6-methoxyisophthalamic acid and 3-methoxy-5-trifluoromethylaniline by the same procedure as in the manufacturing method described in step C of Example 1-3-1.

reactant | 6-methoxyisophthalamic acid | COC1=CC=C(C=C1C(=O)O)C(=O)N | C9H9NO4
reactant | 3-methoxy-5-trifluoromethylaniline | COC=1C=C(N)C=C(C1)C(F)(F)F | C8H8F3NO
product | 4-methoxy-3-N-(3-methoxy-5-trifluoromethylphenyl)isophthalamide | COC1=C(C=C(C(=O)N)C=C1)C(=O)NC1=CC(=CC(=C1)C(F)(F)F)OC | C17H15F3N2O4
